datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[Si:11](C)([H:10])[CH:62]([Si:63](C)(C)C)[Si:73](C)(C)C.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]2)=[CH:32]1>>C[Si+:11](C)[CH:62]([Si:63](C)(C)C)[Si:73](C)(C)C.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH:20]([H:10])[CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]2)=[CH:32]1 10,11=10,20"
"C1CCC[C:11](=[CH2:10])CCC1.CC[O:33][C:22](/[CH:21]=[CH:20]\[C:41](=[O:42])[O:52]CC)=[O:23]>>CC[O:33][C:22](=[CH:21][CH:20]([CH2:10][C+:11]1CCCCCCC1)[C:41](=[O:42])[O:52]CC)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=CC=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1.C[O:14][C:13]1=[CH:12][CH:11]=[CH:10][CH:62]=[CH:61]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2[CH:11]=[CH:12][C:13](=[O+:14]C)[CH:61]=[CH:62]2)[C:21](C[N+]2=CC=CC=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1.FC(F)(F)[C:63]1=[CH:64][C:73](C(F)(F)F)=[CH:72][C:61]([S-:10])=[CH:62]1>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([S:10][C:61]2=[CH:62][C:63](C(F)(F)F)=[CH:64][C:73](C(F)(F)F)=[CH:72]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1 10=20;20,21=21,22;22,23=23"
"CC(C)[C@H]1CC[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N:10]1.Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20](=[O:21])[C:41](Cl)=[C:42]1Cl>>CC(C)[C@H]1CC[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N+:10]1[C:20]1([O-:21])[C:32](=[O:33])[C:31](Cl)=[C:30](Cl)[C:42](Cl)=[C:41]1Cl 10=20;20,21=21"
"CO/[C:10](=[C:11](/[O-:12])[O:62]C)[C:71](=[O:72])[O:82]C.Cl[C:44]1=[CH:43][CH:42]=[C:41]([C+:20]2CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1>>CO[C:10]([C:11](=[O:12])[O:62]C)([C:20]1([C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:53]=[CH:52]2)CC[CH:32]=[CH:31]1)[C:71](=[O:72])[O:82]C 10,11=10,20;12=11,12"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]C(F)(F)F)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC[N:82]1[C:11]([O-:12])=[CH:10][C:61](=[O:62])[N:82](CC)[C:73]1=[S:74]>>CC[N:82]1[C:11](=[O:12])[CH:10]([CH:20](C(F)(F)F)[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[C:61](=[O:62])[N:82](CC)[C:73]1=[S:74] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)(C)[P:10](C1=CC=CC=C1)C(C)(C)C.CC(C)(C1=C(I)C=CC=C1)[O:21][S:20]C(F)(F)F>>CC(C)(C)[P+:10](C1=CC=CC=C1)(C(C)(C)C)[S:20]C(F)(F)F.CC(C)(C1=C(I)C=CC=C1)[O-:21] 10=20;20,21=21"
"C[C:11](=[N:10][C:61](C)=[O:62])[O-:12].FC(F)(F)[S:20][N:21]1[C:22](=[O:23])CC[C:32]1=[O:33]>>C1C[C:32](=[O:33])[N:21]=[C:22]1[O-:23].C[C:11]([N:10]([S:20]C(F)(F)F)[C:61](C)=[O:62])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]2(C3=CC(C(F)(F)F)=CC(C(F)(F)F)=C3)[O:12]CC[O:62]2)S1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([C:10]1=CC=C(C)S1)[C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33].FC(F)(F)C1=CC(C(F)(F)F)=CC([B-:11]2=[O+:12]CC[O:62]2)=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](N)=[O:25].C[N:12](C)[C:11](=[NH:10])[N:62](C)C>>C[N+:12](C)=[C:11]([NH:10][CH:20]([C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])[C:31](=[O:32])[N:33](C)C)[N:62](C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC1C(C)[O:62][C:11]([H:10])([CH:72]=[CH2:73])[O:12]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC1C(C)[O:62][C:11]([CH:72]=[CH2:73])=[O+:12]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CCCCCC[SiH2:11][H:10].C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>CCCCCC[SiH2+:11].C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([H:10])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]=[N:21]1.C[C:63]([NH:12][C:11](C1=CCCC2=CC=CC=C21)=[CH2:10])=[O:64]>>CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]([CH2:10][C:11](C2=CCCC3=CC=CC=C32)=[NH+:12][C:63](C)=[O:64])[N-:21]1 10,11=10,20;12=11,12;20,21=21"
"C1CCC[C:20](=[O:21])CC1.[O+]#C[Mo-3:11]1234(C#[O+])([P+](C5=CC=CC=C5)(C5=CC=CC=C5)C5=CC=CC=C5)([H:10])C5C1C2C3C54>>C1CCC[C:20]([H:10])([O-:21])CC1.[O+]#C[Mo-2:11]1234(C#[O+])([P+](C5=CC=CC=C5)(C5=CC=CC=C5)C5=CC=CC=C5)C5C1C2C3C54 10,11=10,20;20,21=21"
